Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
throat tightness
 
Major Surgical or Invasive Procedure:
flexible laryngoscopy

 
History of Present Illness:
___ with h/o DM, HTN presents with 1 wk of throat tightness. 
.
For the past week has had vague sensation of "tightness" in her 
throat, sometimes accompanied by some minimal shortness of 
breath and mild throat pain. Lats night she had some dull mild 
anterior chest pain when lying down which went away when she sat 
up. She is taking solids and fluids w/o any dysphagia. She 
denies any heartburn. She has known right thyroid nodule that 
was FNA's in ___ and found to be benign. Lately she had been 
feeling some tightness in the neck around the same area and 
wonders whether her throat tightness is related. She has no 
known cardiac history but endorses chronic ___ swelling, X2-3 
pillow orthopnea and PND X1/week as well as dyspnea at two 
flights of stairs and two blocks. This DOE has been stable for 
at least a couple of years. She did feel like she had a cold 
last week with some nasal congestion and cough that have 
resolved. She had no recent febrile illness. No recent exposure 
to new meds or foods. She has been on lisinopril for a while 
with no h/o angiedema.  sob and feeling of something in her 
throat. ___ states she develop this over 1 wk ago while just 
sitting at home. 
.
Of note patient has h/o ___ Lap hiatal herniorrhaphy/Toupet 
fundoplication for a large paraesophageal hernia. Recently seen 
for follow up by Dr. ___ who thought no further f/u 
was necessary. Esophagogram on ___ looked good. She does 
not think her current symptoms are related to her past esophgeal 
issues. 

In the ED admission vitals were: 98.8 114 128/69 15 98%  
Labs notable for leukocytosis to 14K PMN predominant, 
hyperglycemia to 201 and elevated d-dimer to 4283. Trop neg X1. 
ECG non acute. 
CTA no PE. Got 2L of NS + IV ativan, with resolution of 
tachcardia. 
. 
On the floor, patient feels ok currently except for mild throat 
tightness which is ongoing. She otherwise has no SOB, chest pain 
or any other complaint.  
 
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness. Denies palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal 
pain. No recent change in bowel or bladder habits. No dysuria. 
Denies arthralgias or myalgias. Ten point review of systems is 
otherwise negative.  
 

 

 
 
Past Medical History:
PAST MEDICAL HISTORY:  

___ Lap hiatal herniorrhaphy/Toupet fundoplication for a 
large 
paraesophageal hernia.
DMII
hypothyroidism
hyperlipidemia
HTN
B TKR
hysterectomy 
appendectomy
cholecystectomy

 
Social History:
___
Family History:
Family History: MGM cloln Ca. PGM Breast Ca. Mother CHF. 

 
Physical Exam:
Vitals: 98.9  138/84  92  20  98RA  
General:   confortable and appropriate, alert+Ox3
HEENT: PERRLA, EOMI, no pallor or jaundice, no sinus tenderness, 
normal oral mucosa, normal pharynx with central uvula no 
tonsillar hypertrophy and no signs of edema.  
Neck: Minimal right anterior lymphadenopathy, I could not 
paplpate any thyroid nodules, no thyroid or carotid bruits, no 
tenderness. 
LAD: none except as above  
Lungs: CTA 
CV:RRR/ no M/R/N  
Abdomen: distended but soft, no HSM, normal BS 
Ext: +___dema to knees 
Skin: no rash  
Neuro: motor ___ throughout, grossly normal sensorium, no 
cranial nerve deficits  
  
 
d/c exam:

Vital Signs: 97.9 109/62  86  18   98RA 
GEN: Alert, comfortable, NAD
General:   confortable and appropriate, alert+Ox3
HEENT: PERRLA, EOMI, no pallor or jaundice, OP WNL
Neck: no masses palpated
LAD: none except as above  
Lungs: CTA 
CV:RRR/ no M/R/N  
Abdomen: distended but soft, no HSM, normal BS 
Ext: +___dema to knees unchanged
Skin: no rash  
Neuro: no gross deficits

 
Pertinent Results:
___ 12:40PM BLOOD WBC-14.3* RBC-4.53 Hgb-13.3 Hct-39.2 
MCV-87 MCH-29.3 MCHC-33.8 RDW-13.8 Plt ___
___ 12:40PM BLOOD Neuts-78.8* Lymphs-13.9* Monos-2.9 
Eos-4.0 Baso-0.5
___ 12:40PM BLOOD Glucose-201* UreaN-20 Creat-1.0 Na-141 
K-3.9 Cl-101 HCO3-27 AnGap-17
___ 12:40PM BLOOD ALT-13 AST-17 AlkPhos-95 TotBili-0.3
___ 12:40PM BLOOD Albumin-4.6
___ 12:40PM BLOOD D-Dimer-4283*
___ 12:40PM BLOOD TSH-1.5

STUDIES:  

CTA: 

1. No pulmonary embolism or acute cardiopulmonary process. 

2. Enlarged and heterogeneous right thyroid lobe as seen on 
prior
examination, for which further evaluation can be performed with 
a thyroidultrasound on a nonemergent basis if clinically 
indicated. 

3. Mild intrahepatic biliary ductal dilation, at least involving 
the lefthepatic lobe, not fully imaged. Correlate with LFTs, if 
further evaluation is warranted ultrasound or MRCP can be 
considered.

4. simple fluid collection in the left paraesophageal region 

 
EKG:  sinus tachy, left axis WNL, PRWP, non specific lateral T 
wave faltening. Not significantly changed from prior. 

There is normal compression and augmentation of the comon 
femoral vein,
superficial femoral vein (proximal, mid and distal), popliteal 
vein, posterior
tibial veins and peroneal veins in both lower extremities. There 
is normal
phasicity of the common femoral veins bilaterally.  
 
IMPRESSION:
 
No evidence of DVT.
 

d/c labs
___ 06:10AM BLOOD WBC-10.3 RBC-3.97* Hgb-11.7* Hct-35.0* 
MCV-88 MCH-29.5 MCHC-33.5 RDW-13.9 Plt ___
___ 06:10AM BLOOD Glucose-209* UreaN-17 Creat-1.0 Na-140 
K-4.2 Cl-102 HCO3-29 AnGap-13
___ 06:10AM BLOOD Amylase-47
___ 06:10AM BLOOD Calcium-9.3 Phos-3.6 Mg-1.___ w/h/o HTN and DMII admitted for vague complaints of throat 
tightness and shortness of breath. She underwent chest CTA, MI 
rule out and laryngoscopy which did not demonstrate any obvious 
cause for her symptoms. She did endorse her symptoms often 
happening at night and sometimes accomapanied by nocturnal 
cough. She had stopped taking omeprazol about 2 months prior.  
She was restarted on omperazol at 20mg BID. On morning of 
discharge she reported that her throat tightness has resolved 
overnight and she feels much better. She denies fevers, chills, 
cough, SOB, CP or any other complaints currently. I also spoke 
to her thoracic surgeon Dr. ___ who reviewed her 
CTA and does not think her symptoms and imaging are concerning 
for a any post operative complication or recurrence. 

In summary patient's problems are: 

- throat tightness - possibly ___ to GERD. Normal flexible 
laryngoscopy. Restarted Omeprazol. Now resolved. 
- Dehydration: presented with mild sinus tachycardia which 
resolved with IVF in the ED. 
- SOB/CP: ruled out for MI, PE, pneumonia
- leukocytosis - no clinical evidence of infection. likely ___ 
to hemocncentration. Now resolved.  
- DOwn trending WBC, HCT, PLT - likely returning to her baseline 
after resolution of relative hemoconcentration with fluids. 
- simple fluid collection in the left paraesophageal region - 
likely post surgical. No concern per thoracic surgery.  
- Enlarged and heterogeneous right thyroid lobe: unchanged from 
prior per radiology. Past FNA benign. 
- intrahepatic biliary ductal dilation - likely normal changes 
post CCY, no clinical or lab correlate for cholestasis. 
- ? CHF: given chronic symptoms of DOE, orthopnea, PND, periph 
edema. 
- peripheral edema: ___ amlodipin? CHF? ___ neg for DVT's. 
- DMII - metformin was held after IV contrast which is likely 
why she has been having hyperglycemia in the 200's over the past 
day. Restarted on day of discharge
- HTN
- Hypothyroidism
- s/p Sx for paraesophageal 

Patient was discharged in good general condition with the 
following recommendations:

-- continue omeprazol 20mg BID + PRN maalox
-- f/u with out patient cardiologist for work up of DOE
-- f/u with ENT in ___ weeks. 
-- f/u of chronic stable thyroid enlargement with PCP. 
-- f/u CBC in 1 week
-- f/u with PCP ___ 1 week. 
- continue home glucose monitoring and regimen. Call PCP if 
___ hyperglycemia > 250. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. MetFORMIN (Glucophage) 850 mg PO TID 
6. Rosuvastatin Calcium 10 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Glargine 64 Units Bedtime

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Glargine 64 Units Bedtime
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. Lisinopril 40 mg PO DAILY 
7. Omeprazole 20 mg PO BID 
RX *omeprazole 20 mg 1 capsule,delayed ___ by 
mouth twice a day Disp #*60 Capsule Refills:*0
8. Rosuvastatin Calcium 10 mg PO DAILY 
9. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
thorat pain/tightness/heart burn 
RX *aluminum-magnesium hydroxide [___] 200 mg-225 mg/5 mL 
___ ml by mouth four times a day Disp #*1 Bottle Refills:*0
10. MetFORMIN (Glucophage) 850 mg PO TID 
11. Outpatient Lab Work
CBC ___
pls call result in to:
Name: ___. 
Location: ___ 
Address: ___ 
Phone: ___ 
Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
? GERD
DOE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for complaints of throat tightness. You 
underwent extensive work-up which did not show any immediate 
cause for concern. You were re-started on omeprazol as your 
symptoms may be caused by acid reflux. You should follow up with 
your PCP and ___ ENT as out lined below. Given your 
chronic symptoms of shortness of breath and leg swelling you 
should also ___ with a cardiologist as outlined below. 
Your CT did show your thyroid enlargement which was not 
different compared to prior studies. Please ___ on this 
with your PCP. 
 
Followup Instructions:
___